US07960584B2
3-(4-t-Butyl-phenyl)-N-(3-methyl-4-methanesulfonylamino-benzyl)-acrylamide
3-Methyl-4-methanesulfonylaminobenzylamine hydrochloride (140 mg, 0.56 mmol), 3-(4-t-butylphenyl)acrylic acid (1.1 eq, 0.13 g), and DMTMM (1.1 eq, 0.185 g) were added into 25 ml tetrahydrofuran. The reaction mixture was stirred 12 hours at room temperature. After confirming the completion of the reaction with TLC, the reaction mixture was extracted with ethylacetate, washed 1N HCl solution. And the combined organic layer was dried over MgSO4, filtered and concentrated under reduced pressure. The obtained liquid was purified with column chromatography (n-hexane/ethyl acetate=2/1) to yield a solid (49 mg).

reactant | 3-Methyl-4-methanesulfonylaminobenzylamine hydrochloride | 0.56 mmol, 140 mg | Cl.CC=1C=C(CN)C=CC1NS(=O)(=O)C
reactant | 3-(4-t-butylphenyl)acrylic acid | 0.13 g, 1.1 eq | C(C)(C)(C)C1=CC=C(C=C1)C=CC(=O)O | C13H16O2
reactant | DMTMM | 0.185 g, 1.1 eq | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 3-(4-t-Butyl-phenyl)-N-(3-methyl-4-methanesulfonylamino-benzyl)-acrylamide | 49 mg | C(C)(C)(C)C1=CC=C(C=C1)C=CC(=O)NCC1=CC(=C(C=C1)NS(=O)(=O)C)C | C22H28N2O3S
